US09447091B2
b) N-(5-aminobiphenyl-3-yl)acetamide
To a solution of N-(5-nitrobiphenyl-3-yl)acetamide (1.2 g, 4.68 mmol) in THF (10 ml) were added a solution of ammonium chloride (2 g, 37.4 mmol, 8 eq.) in water (2 ml) and zinc (2.36 g, 37.4 mmol, 8 eq.). The mixture was stirred at 45° C. for 2 h and filtered. The filtrate was diluted with water and extracted as in Example 1(d). The solvent was distilled off to afford the product in 94% yield (1 g).

reactant | N-(5-nitrobiphenyl-3-yl)acetamide | 4.68 mmol, 1.2 g | [N+](=O)([O-])C=1C=C(C=C(C1)C1=CC=CC=C1)NC(C)=O | C14H12N2O3
reactant | ammonium chloride | 37.4 mmol, 2 g, 8 eq. | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
catalyst | zinc | 37.4 mmol, 2.36 g, 8 eq. | [Zn] | Zn
product | N-(5-aminobiphenyl-3-yl)acetamide | 94% yield | NC=1C=C(C=C(C1)C1=CC=CC=C1)NC(C)=O | C14H14N2O
